US07943619B2
a) 6-[3-(5-Fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid
To a solution of 6-[3-(5-fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester (379 mg, 1.1 mmol) in THF (2.6 mL), water (2.6 mL) and methanol (0.5 mL) was added lithium hydroxide monohydrate (88.8 mg, 2.1 mmol) and the resulting mixture stirred at room temperature overnight and then acidified with HCl (4 N) and extracted with ethyl acetate. The combined organic layers were then washed with water and brine, dried over sodium sulfate and evaporated to afford the title product (329 mg, 94%) which was obtained as white solid. MS: m/e=329.1 [M−H]−.

reactant | 6-[3-(5-fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester | 1.1 mmol, 379 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=NC=C(C=C1)F | C17H15FN4O4
reactant | lithium hydroxide monohydrate | 2.1 mmol, 88.8 mg | O.[OH-].[Li+]
reactant | HCl | 4 N | Cl | ClH
solvent | THF | 2.6 mL | C1CCOC1 | C4H8O
solvent | water | 2.6 mL | O | H2O
solvent | methanol | 0.5 mL | CO | CH4O
product | 6-[3-(5-Fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid | 329 mg, 94% | FC=1C=CC(=NC1)C1=NOC(=C1COC1=CC=C(N=N1)C(=O)O)C | C15H11FN4O4
